US06207662B1
(±)-2-[(4-Acetyl-2-methoxyphenoxy)methyl]-4-benzylmorpholine oxalic acid salt.
(±)-4-Benzyl-2-[(4-iodo-2-methoxyphenoxy)methyl]morpholine (360 mg, 0.82 mmol), 1-methoxyvin-1-yl trimethyltin (528 mg, 2.4 mmol), and palladium bis(triphenylphosphine)palladium(II)chloride (36 mg, 0.052 mmol) was refluxed in THF (15 ml) for 24 h. Water was added and was followed by extraction twice with ethyl acetate. The solvent was evaporated and the residue was stirred in aqueous hydrochloric acid (25 ml, 1 M) and methanol (10 ml) at 50° C. for 1 h. The product was extracted with ethyl acetate. Drying and evaporation of the solvent was followed by chromatography. The product was dissolved in ether and precipitated as the oxalate. Yield 40 mg. mp 122-127° C.

reactant | (±)-4-Benzyl-2-[(4-iodo-2-methoxyphenoxy)methyl]morpholine | 0.82 mmol, 360 mg | C(C1=CC=CC=C1)N1CC(OCC1)COC1=C(C=C(C=C1)I)OC | C19H22INO3
reactant | 1-methoxyvin-1-yl trimethyltin | 2.4 mmol, 528 mg | COC(=C)[Sn](C)(C)C
reactant | Water | O | H2O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | (±)-2-[(4-Acetyl-2-methoxyphenoxy)methyl]-4-benzylmorpholine oxalic acid salt | C(C(=O)O)(=O)O.C(C)(=O)C1=CC(=C(OCC2CN(CCO2)CC2=CC=CC=C2)C=C1)OC | InChI=1S/C21H25NO4.C2H2O4/c1-16(23)18-8-9-20(21(12-18)24-2)26-15-19-14-22(10-11-25-19)13-17-6-4-3-5-7-17;3-1(4)2(5)6/h3-9,12,19H,10-11,13-15H2,1-2H3;(H,3,4)(H,5,6)
